US05410065
Preparation of 5-Amino-N-(2,6-dichloro-3-methylphenyl)-1,2,4-triazole-3-sulfonamide (Formula IV, W and X=Cl, Y=CH3, and Z=H)
A mixture of 3.5 g (10 mmol) of 5-formylamino-N-(2,6-dichloro-3-methylphenyl)-1,2,4-triazole-3-sulfonamide and 50 ml of 1 percent aqueous sodium hydroxide was heated to reflux for 4 hours and was then cooled and acidified with dilute aqueous hydrochloric acid. The solids that formed were collected by filtration and dried to obtain 2.77 g (86 percent of theory) of the title compound, m.p. 243°-44° C. The proton and carbon nmr spectra were consistent with the assigned structure.

reactant | 5-formylamino-N-(2,6-dichloro-3-methylphenyl)-1,2,4-triazole-3-sulfonamide | 10 mmol, 3.5 g | C(=O)NC1=NC(=NN1)S(=O)(=O)NC1=C(C(=CC=C1Cl)C)Cl | C10H9Cl2N5O3S
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 50 ml | [OH-].[Na+]
product | 5-Amino-N-(2,6-dichloro-3-methylphenyl)-1,2,4-triazole-3-sulfonamide | NC1=NC(=NN1)S(=O)(=O)NC1=C(C(=CC=C1Cl)C)Cl | C9H9Cl2N5O2S
